US06262040B1
3-[(1-Cyclopentyl-3-ethyl-1H-indazole-6-carbonyl)-amino]-propionic acid ethyl ester
This compound was prepared according to the method of Example 35, using 297 mg (1.15 mmol, 1.0 equiv) 1-cyclopentyl-3-ethyl-1H-indazole-6-carboxylic acid and 177 mg (1.15 mmol, 1.0 equiv) beta-alanine ethyl ester hydrochloride as starting materials to give 372 mg (90%) of white crystals: mp 74-76° C.; Anal. calcd for C20H27N3O3: C, 67.21; H, 7.61; N, 11.76. Found: C, 67.40; H, 7.56; N, 11.99.

reactant | 1-cyclopentyl-3-ethyl-1H-indazole-6-carboxylic acid | 1.15 mmol, 297 mg, 1.0 equiv | C1(CCCC1)N1N=C(C2=CC=C(C=C12)C(=O)O)CC | C15H18N2O2
reactant | beta-alanine ethyl ester hydrochloride | 1.15 mmol, 177 mg, 1.0 equiv | Cl.C(C)OC(CCN)=O
product | 3-[(1-Cyclopentyl-3-ethyl-1H-indazole-6-carbonyl)-amino]-propionic acid ethyl ester | 372 mg, 90% | C(C)OC(CCNC(=O)C1=CC=C2C(=NN(C2=C1)C1CCCC1)CC)=O | C20H27N3O3
